US08445510B2
trans-4-[3-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanol
To a solution of trans-4-(4-iodo-3-methyl-1H-pyrazol-1-yl)cyclohexanol (150.0 mg, 0.4900 mmol) in THF (9 mL, 100 mmol) was added 2 M isopropylmagnesium chloride in THF (0.7349 mL, 1.470 mmol) at rt, and the mixture was stirred for 30 min. 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.3212 mL, 1.960 mmol) was added, and the mixture stirred at rt for 2 h. The reaction was quenched with sat. NH4Cl, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was concentrated in vacuo to afford the title compound as a clear oil.

reactant | trans-4-(4-iodo-3-methyl-1H-pyrazol-1-yl)cyclohexanol | 0.4900 mmol, 150.0 mg | IC=1C(=NN(C1)[C@@H]1CC[C@H](CC1)O)C | C10H15IN2O
reactant | THF | 100 mmol, 9 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | THF | 1.470 mmol, 0.7349 mL | C1CCOC1 | C4H8O
reactant | 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.960 mmol, 0.3212 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
product | trans-4-[3-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanol | CC1=NN(C=C1B1OC(C(O1)(C)C)(C)C)[C@@H]1CC[C@H](CC1)O | C16H27BN2O3
